US05576322
2-Hydroxymethyl-4-(3,4-methylenedioxybenzyl)amino-6-methoxyquinazoline
1.5 g of 10% palladium/carbon powder was added to a solution of 1.26 g (2.93 mmol) of 2-benzyloxymethyl-4-(3,4-methylenedioxybenzyl)amino-6-methoxyquinazoline in an ethyl acetate/ethanol (20 ml-20 ml) mixture. The obtained mixture was stirred at room temperature in a stream of hydrogen for 24 hours and filtered through Celite. The filter cake was washed with hot ethyl acetate/ethanol. The filtrate and the washings were distilled under a reduced pressure to remove the solvent. Thus 0.89 g of the title compound was obtained as a pale-yellow crystal.

reactant | 2-benzyloxymethyl-4-(3,4-methylenedioxybenzyl)amino-6-methoxyquinazoline | 2.93 mmol, 1.26 g | C(C1=CC=CC=C1)OCC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)OC | C25H23N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 1.5 g | [Pd] | Pd
solvent | ethyl acetate ethanol | 20 ml-20 ml | C(C)(=O)OCC.C(C)O
product | 2-Hydroxymethyl-4-(3,4-methylenedioxybenzyl)amino-6-methoxyquinazoline | 0.89 g | OCC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)OC | C18H17N3O4
